US04303768
About 50 parts by weight of an aqueous sodium silicate solution containing about 10% Na2O and 25% SiO2 by weight, 35 parts by weight of methyl methacrylate, 2 parts by weight of phthalic anhydride, and 0.5 parts by weight of benzoyl peroxide are thoroughly mixed thereby producing an emulsion. The mixture is reacted at ambient temperature and pressure for 1 to 24 hours thereby producing a poly(sodium silicate-methyl methacrylate) copolymer emulsion.

reactant | sodium silicate | [Si]([O-])([O-])([O-])[O-].[Na+].[Na+].[Na+].[Na+]
reactant | methyl methacrylate | C(C(=C)C)(=O)OC | C5H8O2
reactant | phthalic anhydride | C1(C=2C(C(=O)O1)=CC=CC2)=O | C8H4O3
reactant | benzoyl peroxide | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
product | sodium silicate methyl methacrylate | [Si]([O-])([O-])([O-])[O-].[Na+].[Na+].[Na+].[Na+].C(C(=C)C)(=O)OC | InChI=1S/C5H8O2.4Na.O4Si/c1-4(2)5(6)7-3;;;;;1-5(2,3)4/h1H2,2-3H3;;;;;/q;4*+1;-4
